US05356804
α-Gal A was assayed using 4-methylumbelliferyl-α-D-galactopyranoside (4-MU-α-Gal) as previously described (Bishop, et al., 1980, In Enzyme Therapy in Genetic Diseases: 2. Desnick, R. J. (Ed.). Alan R. Liss, Inc. New York, p. 17). Briefly, a stock solution of 5 mM 4-MU was prepared in 0.1M citrate-phosphate buffer, pH 4.6 solubilized in an ultrasonic bath. The reaction mixtures containing 10-50 μl of enzyme preparation or cell extracts and 150 μl substrate, were incubated at 37° C. for 10-30 minutes. The reactions were terminated with the addition of 2.33 ml of 0.1M ethylenediamine. One unit of activity is that amount of enzyme which hydrolyzes 1 nmol of substrate/hour.

reactant | α-Gal | O[C@@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO | C6H12O6
reactant | 4-methylumbelliferyl-α-D-galactopyranoside | CC1=CC(=O)OC2=C1C=CC(=C2)OC3C(C(C(C(O3)CO)O)O)O | C16H18O8
solvent | citrate phosphate | 0.1M | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].P(=O)([O-])([O-])[O-]
product | 4-MU | 5 mM | CC1=CC(=O)OC2=C1C=CC(=C2)O | C10H8O3
